US06156767
1-(7-Aza-bicyclo[2.2.1]hept-7-yl)-2-(2-(3,5-dimethylphenyl)-3-{2-[(4-pyridin-4-yl-butyl)-(2-pyridin-3-yl-ethyl)amino]ethyl}-1H-indol-5-yl)-2-methylpropan-1-one
To a solution of 4-(pyridin-4-yl)butyraldehyde (29 mg in 1.5 mL dry methanol) was added 18 mg of 1-(7-aza-bicyclo[2.2.1]hept-7-yl)-2-(2-(3,5-dimethylphenyl)-3-[2-(2-pyridin-3-yl-ethylamino)-ethyl]-1H-indol-5-yl}-2-methylpropan-1-one followed by 10 mg 3A powdered molecular seives. To this mixture, 13 mg sodium cyanoborohydride was added and the pH adjusted to 5.5 by the addition of 10% methanolic acetic acid. After 17.5 hours, the reaction was quenched by the addition of saturated sodium bicarbonate and the mixture extracted with ethyl acetate. The organic portion was washed successively with saturated ammonium chloride, sodium bicarbonate and brine, then dried over sodium sulfate. Purification of the concentrate by flash chromatography on silica gel (methylene chloride:methanol, 90:10) gave the title compound (17 mg).

reactant | 4-(pyridin-4-yl)butyraldehyde | 1.5 mL, 29 mg | N1=CC=C(C=C1)CCCC=O | C9H11NO
reactant | 1-(7-aza-bicyclo[2.2.1]hept-7-yl)-2-(2-(3,5-dimethylphenyl)-3-[2-(2-pyridin-3-yl-ethylamino)-ethyl]-1H-indol-5-yl}-2-methylpropan-1-one | 18 mg | C12CCC(CC1)N2C(C(C)(C)C=2C=C1C(=C(NC1=CC2)C2=CC(=CC(=C2)C)C)CCNCCC=2C=NC=CC2)=O | C35H42N4O
reactant | sodium cyanoborohydride | 13 mg | C(#N)[BH3-].[Na+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 1-(7-Aza-bicyclo[2.2.1]hept-7-yl)-2-(2-(3,5-dimethylphenyl)-3-{2-[(4-pyridin-4-yl-butyl)-(2-pyridin-3-yl-ethyl)amino]ethyl}-1H-indol-5-yl)-2-methylpropan-1-one | 17 mg | C12CCC(CC1)N2C(C(C)(C)C=2C=C1C(=C(NC1=CC2)C2=CC(=CC(=C2)C)C)CCN(CCC=2C=NC=CC2)CCCCC2=CC=NC=C2)=O | C44H53N5O
